US09301951B2
tert-butyl 4-(3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-(piperidin-1-yl)phenyl)carbamoyl)benzyl)-1,4-diazepane-1-carboxylate
Into a 100-mL round-bottom flask, was placed a solution of N-(3-(trifluoromethyl)benzyl)-2-(2-(3-(bromomethyl)benzamido)-5-(piperidin-1-yl)phenyl)isonicotinamide (400 mg, 0.61 mmol, 1.00 equiv) in N,N-dimethylformamide (20 mL), potassium carbonate (248 mg, 1.79 mmol, 2.92 equiv), potassium iodide (20 mg, 0.12 mmol, 0.20 equiv), and tert-butyl 1,4-diazepane-1-carboxylate (240 mg, 1.20 mmol, 1.95 equiv). The resulting solution was stirred for 3 h at 70° C. in an oil bath. The resulting solution was diluted with 300 mL of water. The resulting solution was extracted with 4×200 mL of ethyl acetate and the organic layers combined. The resulting mixture was washed with 2×200 mL of brine. The mixture was dried over sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with dichloromethane:methanol (20:1˜10:1). The product was obtained as 400 mg (85%) of a yellow solid. 1H-NMR (300 MHz, CD3OD, ppm): δ 8.875-8.887 (d, J=3.6 Hz, 1H), 8.287-8.298 (d, J=3.3 Hz, 1H), 8.253 (s, 1H), 7.936 (s, 1H), 7.772-7.936 (m, 2H), 7.433-7.711 (m, 7H), 7.106-7.146 (dd, J=2.7 Hz, J′=9.0 Hz, 1H), 4.689 (s, 2H), 3.740 (s, 2H), 3.482 (m, 4H), 3.197-3.232 (m, 4H), 2.656-2.693 (m, 4H), 1.720-1.847 (m, 6H), 1.614-1.649 (m, 2H), 1.420-1.459 (m, 9H). MS (ES, m/z): 771 [M+H]+; 793 [M+Na]+.

reactant | N-(3-(trifluoromethyl)benzyl)-2-(2-(3-(bromomethyl)benzamido)-5-(piperidin-1-yl)phenyl)isonicotinamide | 0.61 mmol, 400 mg, 1.00 equiv | FC(C=1C=C(CNC(C2=CC(=NC=C2)C2=C(C=CC(=C2)N2CCCCC2)NC(C2=CC(=CC=C2)CBr)=O)=O)C=CC1)(F)F | C33H30BrF3N4O2
reactant | potassium carbonate | 1.79 mmol, 248 mg, 2.92 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.12 mmol, 20 mg, 0.20 equiv | [I-].[K+]
reactant | tert-butyl 1,4-diazepane-1-carboxylate | 1.20 mmol, 240 mg, 1.95 equiv | N1(CCNCCC1)C(=O)OC(C)(C)C | C10H20N2O2
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | water | 300 mL | O | H2O
product | tert-butyl 4-(3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-(piperidin-1-yl)phenyl)carbamoyl)benzyl)-1,4-diazepane-1-carboxylate | 400 mg, 85% | FC(C=1C=C(CNC(=O)C2=CC(=NC=C2)C2=C(C=CC(=C2)N2CCCCC2)NC(=O)C=2C=C(CN3CCN(CCC3)C(=O)OC(C)(C)C)C=CC2)C=CC1)(F)F | C43H49F3N6O4
